US07348449B2
Synthesis of 4-[2-(8,8-Dimethyl-5-p-tolyl-7,8-dihydro-2-naphthyl)-2-hydroxyacetylamino]benzoic acid
In a manner similar to that of Example 22e, by reacting 0.7 g (1.54 mmol) of methyl 4-[2-(8,8-dimethyl-5-p-tolyl-7,8-dihydro-2-naphthyl)-2-hydroxyacetylamino]benzoate with 0.25 g (6 mmol) of lithium hydroxide hydrate, a solid is obtained (0.68 g; yield=91%; m.p.=145° C.).

reactant | methyl 4-[2-(8,8-dimethyl-5-p-tolyl-7,8-dihydro-2-naphthyl)-2-hydroxyacetylamino]benzoate | 1.54 mmol, 0.7 g | CC1(CC=C(C=2C=CC(=CC12)C(C(=O)NC1=CC=C(C(=O)OC)C=C1)O)C1=CC=C(C=C1)C)C | C29H29NO4
reactant | lithium hydroxide hydrate | 6 mmol, 0.25 g | O.[OH-].[Li+]
product | 4-[2-(8,8-Dimethyl-5-p-tolyl-7,8-dihydro-2-naphthyl)-2-hydroxyacetylamino]benzoic acid | CC1(CC=C(C=2C=CC(=CC12)C(C(=O)NC1=CC=C(C(=O)O)C=C1)O)C1=CC=C(C=C1)C)C | C28H27NO4
